US05703081
1-Cyclopropyl-6,8-difluoro-7-(2-dimethylaminomethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (compound No. 28)
Using 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and (2-dimethylaminomethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine, the same procedure as in Production Example 1 was followed to yield the title compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 2-dimethylaminomethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | CN(C)CC=1N=C2N(CCNC2)C1 | C9H16N4
product | 1-Cyclopropyl-6,8-difluoro-7-(2-dimethylaminomethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2N(CC1)C=C(N2)CN(C)C)F)=O)C(=O)O | C22H23F2N5O3
